US04245107
540 mg. of 2-methyl-3-(p-hydroxyphenylsulfinyl) pentanoic acid and 7-amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid were reacted in the same manner as described in Example 28 and 144 mg. of 7-[2-methyl-3-(p-hydroxyphenylsulfinyl)pentanamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid were obtained.

reactant | 2-methyl-3-(p-hydroxyphenylsulfinyl) pentanoic acid | CC(C(=O)O)C(CC)S(=O)C1=CC=C(C=C1)O | C12H16O4S
reactant | 7-amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O | C9H11N3O5S
product | 7-[2-methyl-3-(p-hydroxyphenylsulfinyl)pentanamido]-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | CC(C(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O)C(CC)S(=O)C1=CC=C(C=C1)O | C21H25N3O8S2
